US08048887B2
5-(3-(2-(4-Chlorophenyl)propan-2-ylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
2-(4-Chlorophenyl)propan-2-amine (21 mg, 0.123 mmol) was added to a stirring solution of HATU (59 mg, 0.154 mmol), DIEA (54 μL, 0.308 mmol), and 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid (40 mg, 0.103 mmol) in DMF (1 mL) at rt. It was allowed to stir for 1 hour. The mixture was diluted with EtOAc and washed with sat NaHCO3, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated and was purified by preparative reverse phase HPLC on a C18 column using a suitably buffered H2O/CH3CN gradient, and concentrated to give the titled compound (32 mg, 57%). 1H NMR (500 MHz, DMSO-d6) δ ppm 8.64 (1H, s), 8.47-8.55 (1H, m), 8.14 (1H, s), 7.99-8.04 (2H, m), 7.92 (1H, s), 7.74-7.89 (4H, m), 7.57 (1H, t, J=7.78 Hz), 7.37-7.45 (4H, m), 7.34 (2H, d, J=8.85 Hz), 2.87 (3H, d, J=4.58 Hz), 1.69 (6H, s). LC-MS retention time: 1.95 min; m/z (MH+): 541. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 10u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 mm, Rt=15.18 min, purity=99%; Column: Waters XBridge phenyl column 4.6×150 mm, 3.5 mm, Rt=13.66 min, purity=99%.

reactant | 2-(4-Chlorophenyl)propan-2-amine | 0.123 mmol, 21 mg | ClC1=CC=C(C=C1)C(C)(C)N | C9H12ClN
reactant | HATU | 0.154 mmol, 59 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.308 mmol, 54 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid | 0.103 mmol, 40 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)O)C=CC2 | C23H16FNO4
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(3-(2-(4-Chlorophenyl)propan-2-ylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 32 mg, 57% | ClC1=CC=C(C=C1)C(C)(C)NC(=O)C=1C=C(C=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C32H26ClFN2O3
